US04051260
To a solution of 0.288 g. of 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propanal in 4 ml. of ethanol is added a solution of 0.12 g. of hydroxylamine hydrochloride and 0.11 g. of sodium hydroxide in 0.4 ml. of water. The mixture is refluxed briefly, then acidified with dilute hydrochloric acid and extracted with ethyl acetate. The extract is washed, dried and evaporated to yield a crude product which is chromatographed on silica gel, eluting with chloroform:methanol (19:1) to afford 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propanal oxime.

reactant | 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propanal | O=C1C2=C(C=CC3=C1C=CC(=C3)C(C=O)C)C=CC=C2 | C18H14O2
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propanal oxime | O=C1C2=C(C=CC3=C1C=CC(=C3)C(C=NO)C)C=CC=C2 | C18H15NO2
